US08202885B2
47 mg of sodium hydride were added portionwise to a solution of 300 mg of 3-(4,5-diphenyl-1H-imidazol-2-yl)-propionic acid methyl ester in 2 mL of anh. DMF at 0° C. The mixture was stirred for 1 h at 0° C. then 179 mg of SEM-Cl were added dropwise at 0° C. The reaction mixture was allowed to warm up to rt, stirred for 1 h then poured into water and extracted with Et2O. The organic phase was washed with water/brine, dried over anh. Na2SO4 and concentrated in vacuo. The resulting crude material was purified by CC using heptane/EtOAc from 88/12 to 0/100 as eluant to yield 308 mg of 3-[4,5-diphenyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-propionic acid methyl ester as a yellowish oil.

reactant | sodium hydride | 47 mg | [H-].[Na+]
reactant | 3-(4,5-diphenyl-1H-imidazol-2-yl)-propionic acid methyl ester | 300 mg | COC(CCC=1NC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)=O | C19H18N2O2
reactant | SEM-Cl | 179 mg | C[Si](C)(C)CCOCCl | C6H15ClOSi
reactant | water | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-[4,5-diphenyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-propionic acid methyl ester | 308 mg | COC(CCC=1N(C(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)COCC[Si](C)(C)C)=O | C25H32N2O3Si
